US07345075B2
a) 3-[(3,4-Dimethylphenyl)amino]-4,6-dinitrophenol
6.6 g of 3,4-dimethylaniline was added to a suspension that consists of 4 g of 4,6-dinitro-3-fluorophenol (J. Org. Chem. 1991, 5958) in 100 ml of ethanol, and it was stirred for 7 days at 40° C. After cooling, it was suctioned off, and the residue was recrystallized from ethanol.

reactant | 3,4-dimethylaniline | 6.6 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | 4,6-dinitro-3-fluorophenol | 4 g | [N+](=O)([O-])C1=C(C=C(C(=C1)[N+](=O)[O-])O)F | C6H3FN2O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[(3,4-Dimethylphenyl)amino]-4,6-dinitrophenol | CC=1C=C(C=CC1C)NC=1C=C(C(=CC1[N+](=O)[O-])[N+](=O)[O-])O | C14H13N3O5
